US04477671
2-Hydroxymethyl-3-hydroxy-6-[1-hydroxy-2-(N-tert-butylbenzylamino)ethyl]pyridine Dihydrochloride
A solution of 8.40 g. (0.02 mole) 6-[1-hydroxy-2-(N-tert-butylbenzylamino)ethyl]-2-phenyl-4H-1,3-dioxino[5,4-b]pyridine in 75 ml. of methanol containing 10 ml. of concentrated hydrochloric acid was stirred at room temperature for 4 hours, then the solvents were evaporated in vacuo to give a solid. Recrystallization from isopropanol/methanol gave 6.30 g. (74%) of 2-hydroxyethyl-3-hydroxy-6-[1-hydroxy-2-(N-tert-butylbenzylamino)ethyl]pyridine dihydrochloride; m.p. 173°-175° C. (dec.)

reactant | 6-[1-hydroxy-2-(N-tert-butylbenzylamino)ethyl]-2-phenyl-4H-1,3-dioxino[5,4-b]pyridine | 0.02 mole | OC(CN(C(C)(C)C)CC1=CC=CC=C1)C1=CC=C2C(=N1)COC(O2)C2=CC=CC=C2 | C26H30N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | 2-hydroxyethyl-3-hydroxy-6-[1-hydroxy-2-(N-tert-butylbenzylamino)ethyl]pyridine dihydrochloride | Cl.Cl.OCCC1=NC(=CC=C1O)C(CN(C(C)(C)C)CC1=CC=CC=C1)O
solvent | methanol | 10 ml | CO | CH4O
product | 2-Hydroxymethyl-3-hydroxy-6-[1-hydroxy-2-(N-tert-butylbenzylamino)ethyl]pyridine Dihydrochloride | Cl.Cl.OCC1=NC(=CC=C1O)C(CN(C(C)(C)C)CC1=CC=CC=C1)O | InChI=1S/C19H26N2O3.2ClH/c1-19(2,3)21(11-14-7-5-4-6-8-14)12-18(24)15-9-10-17(23)16(13-22)20-15;;/h4-10,18,22-24H,11-13H2,1-3H3;2*1H
